US06573289B1
Production of 1-{6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]naphthalen-2-yl}-2-methyl-1-propanone
In a similar manner to that described in Example 57-(i), the reaction of 1-(6-bromonaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (2.0 g) with 2-methyl-1-(4-morpholinyl)-1-propanone (688 mg) was carried out to give the titled compound (966 mg) as a colorless powder.

reactant | 1-(6-bromonaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 2.0 g | BrC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H31BrN2O
reactant | 2-methyl-1-(4-morpholinyl)-1-propanone | 688 mg | CC(C(=O)N1CCOCC1)C | C8H15NO2
product | 1-{6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]naphthalen-2-yl}-2-methyl-1-propanone | 966 mg | OC(C(C)C)(C=1N=CNC1)C=1C=C2C=CC(=CC2=CC1)C(C(C)C)=O | C21H24N2O2
